FONTE SENOIDAL
* PRINT_RESUME
* PRINT_ANALYSIS_DATA
* PRINT_NETLIST
* PRINT_INTERNAL_NETLIST
* PRINT_INTERNAL_VARIABLES
V0100 1 0 SIN 0 1 1 0 0 0 5
R0200 1 0 1
$0300 1 2 1 0 1 0.001 0.5
R0400 2 0 1
.TRAN 7 0.001 TRAP 1
